US08207147B2
Preparation 19: trans 4 Pentyl-cyclohexanecarboxylic acid N′-(pyridine-4-carbonyl)hydrazide
Isonicotinic acid hydrazide was reacted with 4-pentylcyclohexane carboxylic acid in a similar fashion to that described in Preparation 16 to afford the title compound: RT=4.79 min; m/z (ES+)=318.0 [M+H]+.

reactant | Isonicotinic acid hydrazide | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | 4-pentylcyclohexane carboxylic acid | C(CCCC)C1CCC(CC1)C(=O)O | C12H22O2
product | trans 4 Pentyl-cyclohexanecarboxylic acid N′-(pyridine-4-carbonyl)hydrazide | N1=CC=C(C=C1)C(=O)NNC(=O)[C@@H]1CC[C@H](CC1)CCCCC | C18H27N3O2
